* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 20.6
R1 n1 a 5
R2 a nc 3
V2 nc nd DC 33.3
R3 nd ne 5
V3 b ne DC 17.6
V4 nf b DC 14.8
R4 nf 0 2
.op
.print dc V(a) V(b)
.end